US07407971B2
5-tert-Butyl 1-ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate
5-tert-Butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate (2.0 g, 6.16 mmol) was dissolved in THF (40 ml), treated first with N,N-diisopropylethylamine (5.4 ml, 30.80 mmol) and then, at 0° C., with 4-fluorobenzoyl chloride (800 μl, 6.77 mmol) dissolved in THF (8 ml) dropwise. The reaction mixture was stirred at room temperature for 5 hours, concentrated and dissolved in DCM, washed with saturated sodium hydrogencarbonate aqueous solution and with brine. The organic phase was dried over sodium sulfate, evaporated and purified by flash chromatography (eluent hexane/EtOAc 80/20) to afford 2.5 g of the title compound in 90% yield.

reactant | 5-tert-Butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 6.16 mmol, 2.0 g | NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C15H24N4O4
reactant | N,N-diisopropylethylamine | 30.80 mmol, 5.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluorobenzoyl chloride | 6.77 mmol, 800 μl | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-tert-Butyl 1-ethyl 3-[(4-fluorobenzoyl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 2.5 g, 90% yield | FC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OCC)C(N(C3)C(=O)OC(C)(C)C)(C)C)C=C1 | C22H27FN4O5
